US20010027196A1
To a stirred suspension of 300 mg (1.14 mmol) 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile in 9 ml dimethoxyethane were added 0.41 ml (4.0 mmol) benzyl alcohol and 0.25 ml (1.7 mmol) DBU and the mixture heated at 100° C. for 1 hour. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 2/1) followed by trituration in ether/hexane afforded 185 mg (56%) 2-amino-4-benzyloxy-6-furan-2-yl-pyrimidine-5-carbonitrile as a white crystalline solid. EI-MS m/e (%): 292 (M+, 40), 91 (C7H7+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | 1.14 mmol, 300 mg | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | benzyl alcohol | 4.0 mmol, 0.41 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | DBU | 1.7 mmol, 0.25 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethoxyethane | 9 ml | C(OC)COC | C4H10O2
product | 2-amino-4-benzyloxy-6-furan-2-yl-pyrimidine-5-carbonitrile | 185 mg, 56% | NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C#N)C=1OC=CC1 | C16H12N4O2
